US05942530
A. Preparation of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzamide
In a 22 L Morton flask, 749 g (3.0 mol) of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid, 533 g (3.3 mol) carbonyldiimidazole and tetrahydrofuran (THF) were combined and heated slowly to reflux and allowed to reflux for 2.5 hours. The reaction mixture was cooled to 26° C. and concentrated aqueous ammonia was added. Stirring was continued for 2 hours and the reaction mixture was allowed to stand overnight. The contents were transferred to a flask and rinsed with tetrahydrofuran (250 mL). The mixture was stirred, layers were separated, and the aqueous layer was saved. The organic layer was washed with brine (2.5 L) followed by brine/deionized (DI) water (1 L/1.5 L). The organic layer was washed with 9.7 M hydrochloric acid (HCl)/deionized water (0.25 L / 2.25 L), followed by 9.7 M hydrochloric acid/deionized water (0.5 L/2.8 L), and 9.7 M hydrochloric acid/deionized water/brine (0.5 L/1.5 L/1.5 L). The organic layer was set aside while the combined aqueous layers were washed with tetrahydrofuran. The combined organic layers were washed with brine, dried with sodium sulfate (855 g) and filtered. The filtrate was evaporated to 1011 g of a wet (water), white solid. Methylene chloride was added and removed in vacuo. This procedure was repeated with ethyl acetate (6 L, then 2 L) to produce a solid residue (779 g). The residue was slurried in ethyl acetate and heptane, filtered, and dried in a vacuum oven to yield the desired amide (736 g, 98.7%) as a white solid mp 257-260° C.

reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid | 3.0 mol, 749 g | CC(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | carbonyldiimidazole | 3.3 mol, 533 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzamide | 779 g | CC(C)(C)C=1C=C(C(=O)N)C=C(C1O)C(C)(C)C | C15H23NO2
